US09359371B2
(2) Preparation: 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino) pyrimidine-5-carboxylic acid
In THF (15 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylic acid (196 mg, 0.55 mmol) and 3-azabicyclo[3.1.0]hexan hydrochloride salt (79 mg, 0.66 mmol). The solution was cooled in an ice bath and triethylamine (167 mg, 1.65 mmol) was then added dropwisely. The reaction was warmed to ambient temperature for 5 h. Then water was added and the reaction mixture was extracted with DCM. The organic phase was dried and concentrated to give a solid. The product was used in the subsequent procedure without further purification.

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylic acid | 0.55 mmol, 196 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)S(=O)C)C=CC1OC | C14H14ClN3O4S
reactant | 3-azabicyclo[3.1.0]hexan hydrochloride salt | 0.66 mmol, 79 mg | Cl.C12CNCC2C1
reactant | triethylamine | 1.65 mmol, 167 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino) pyrimidine-5-carboxylic acid | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)O | C18H19ClN4O3
